US03948973
p-(2,2-Dichloro-3,3-dimethylcyclopropyl)anisole was prepared from 58.3 g. of p-(2,2-dimethylvinyl)anisole, 102 g. of potassium t-butoxide, 180 ml. of chloroform and 1800 ml. of pentane according to the procedure described above in Example 1, part (b). The product was recrystallized from hexane to produce p-(2,2-dichloro-3,3-dimethylcyclopropyl)anisole in the form of colorless needles, m.p. 54.5°-57°C.

reactant | p-(2,2-dimethylvinyl)anisole | CC(=CC1=CC=C(C=C1)OC)C | C11H14O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | pentane | CCCCC | C5H12
product | p-(2,2-dichloro-3,3-dimethylcyclopropyl)anisole | ClC1(C(C1(C)C)C1=CC=C(C=C1)OC)Cl | C12H14Cl2O
